US05670502
7-Nitro-3-trifluoroacetamido-1,2,4-benzotriazine 1-oxide (15):
A solution of 7-nitro-3-amino-1,2,4-benzotriazine 1-oxide (4.00 g, 19.3 mmol; Parish Chemical Co.), CHCl3 (125 ml) and trifluoroacetic anhydride (12.0 ml, 85.0 mmol) was stirred at room temperature for 44 hr. The resultant light yellow solid was faltered, washed with CHCl3 (50 ml) and dried to give 5.35 g (91% (yield) of the product as a yellow solid. Anal. Calc'd. for C9H4F3N5O4 : C, 35.7; H, 1.33; N, 23.10. Found: C, 35.7; H, 1.23; N, 23.06.

reactant | 7-nitro-3-amino-1,2,4-benzotriazine 1-oxide | 19.3 mmol, 4.00 g | [N+](=O)([O-])C1=CC2=C(N=C(N=[N+]2[O-])N)C=C1 | C7H5N5O3
reactant | trifluoroacetic anhydride | 85.0 mmol, 12.0 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CHCl3 | 125 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-Nitro-3-trifluoroacetamido-1,2,4-benzotriazine 1-oxide | 91% (yield) | [N+](=O)([O-])C1=CC2=C(N=C(N=[N+]2[O-])NC(C(F)(F)F)=O)C=C1 | C9H4F3N5O4
